US06806265B2
d) 4-[2-(11-Ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylbenzoyl chloride
(COCl)2 (25 μL, 0.87 mmol) and DMF (10 μL) were added to a solution of 4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylbenzoic acid (52.8 mg, 0.12 mmol) in CH2Cl2 (5 mL). The reaction mixture was heated to reflux for 1 h. The cooled mixture was concentrated under reduced pressure to give the title compound (55 mg, 100% yield), which was used without further purification.

reactant | (COCl)2 | 0.87 mmol, 25 μL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | DMF | 10 μL | CN(C)C=O | C3H7NO
reactant | 4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylbenzoic acid | 0.12 mmol, 52.8 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C(=O)O)C=C3)C)=O)C)C=CC=N2 | C24H24N4O4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(11-Ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylbenzoyl chloride | 55 mg, 100% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C(=O)Cl)C=C3)C)=O)C)C=CC=N2 | C24H23ClN4O3
